US08217029B2
105.i) 4-(6-Methoxy-[1,5]naphthyridin-4-yl)-[1,4]diazepane-1-carboxylic acid benzyl ester
According to procedure F and starting from [1,4]diazepane-1-carboxylic acid benzyl ester and 8-bromo-2-methoxy-[1,5]naphthyridine the title compound was isolated as a brown oil (4.18 g, 62%).

reactant | [1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCNCCC1 | C13H18N2O2
reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
product | 4-(6-Methoxy-[1,5]naphthyridin-4-yl)-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)C1=CC=NC2=CC=C(N=C12)OC | C22H24N4O3
